US07973047B2
Step 3: (4S,5S)-tert-butyl 5-(hydroxymethyl)-2,2-dimethyl-4-((2-methylthiazol-4-yl)methyl)oxazolidine-3-carboxylate
(4S,5S)-Tert-butyl 5-((tert-butyldimethylsilyloxy)methyl)-2,2-dimethyl-4-((2-methylthiazol-4-yl)methyl)oxazolidine-3-carboxylate (0.100 g, 0.219 mmol) was dissolved in THF (4 mL) and cooled to 0° C. Next, TBAF (0.547 ml, 0.547 mmol) was added dropwise and the reaction was stirred 1 hr. and then quenched with saturated ammonium chloride and diluted with EtOAc. The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with water, brine, dried over sodium sulfate, and concentrated. Purification by column chromatography (2.5:1 Hexanes/EtOAc) afforded the title compound.

reactant | (4S,5S)-Tert-butyl 5-((tert-butyldimethylsilyloxy)methyl)-2,2-dimethyl-4-((2-methylthiazol-4-yl)methyl)oxazolidine-3-carboxylate | 0.219 mmol, 0.100 g | [Si](C)(C)(C(C)(C)C)OC[C@@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CC=1N=C(SC1)C | C22H40N2O4SSi
reactant | TBAF | 0.547 mmol, 0.547 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | (4S,5S)-tert-butyl 5-(hydroxymethyl)-2,2-dimethyl-4-((2-methylthiazol-4-yl)methyl)oxazolidine-3-carboxylate | OC[C@@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CC=1N=C(SC1)C | C16H26N2O4S
